US04489075
Sodium hydride (0.20 g. of a 50% dispersion in oil) was added to a stirred solution of 2H-1,2,6-thiadiazine-1,1-dioxide (0.56 g) in dimethylformamide (4 cm3). After 0.5 hours 1-(6,7-dimethoxyquinazolin-4-yl)-4-iodomethylpiperidine (0.70 g) was added and the mixture was warmed at 70° for 10 hours. The solvent was removed in vacuo, water was added and the mixture was extracted with chloroform (4×20 cm3). The dried (MgSO4) extracts were evaporated and the residue was chromatographed on silica (MK 60.9385) eluting with methanol:ethyl acetate, 1:19, to give a foam. Crystallisation from ethyl acetate afforded 1-(6,7-dimethoxyquinazolin-4-yl)-4-(1,1-dioxo-1,2,6-thiadiazin-2-yl)methyl piperidine as white microcrystals, m.p. 173°-174°, (0.27 g).

reactant | Sodium hydride | [H-].[Na+]
reactant | 2H-1,2,6-thiadiazine-1,1-dioxide | 0.56 g | S1(NC=CC=N1)(=O)=O | C3H4N2O2S
reactant | 1-(6,7-dimethoxyquinazolin-4-yl)-4-iodomethylpiperidine | 0.70 g | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC(CC1)CI | C16H20IN3O2
solvent | dimethylformamide | 4 cm3 | CN(C=O)C | C3H7NO
product | 1-(6,7-dimethoxyquinazolin-4-yl)-4-(1,1-dioxo-1,2,6-thiadiazin-2-yl)methyl piperidine | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC(CC1)CN1S(N=CC=C1)(=O)=O | C19H23N5O4S
